US07081533B2
1-(Cyclopenten-1-yl)-2-bromobenzene
In parallel, Pd(dba)2 (6 mol %) and PPh3 (12 mol %) are stirred in THF (16 ml) for 10 minutes at RT. The 2-bromo-1-iodobenzene (16 mmol, 1 equivalent) is added to this solution. The mixture is stirred for another 10 minutes at RT. The solution obtained in this way is transferred by means of a syringe to the other solution. The mixture is stirred at 50° C. for 12 hours. After work-up by extraction (Et2O/NaCl), the desired product 1-(cyclopenten-1-yl)-2-bromobenzene is obtained from the ether phase, purified by column chromatography (pentane) and isolated in a yield of 61%.

reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-bromo-1-iodobenzene | 16 mmol, 1 equivalent | BrC1=C(C=CC=C1)I | C6H4BrI
solvent | THF | 16 ml | C1CCOC1 | C4H8O
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 1-(cyclopenten-1-yl)-2-bromobenzene | C1(=CCCC1)C1=C(C=CC=C1)Br | C11H11Br
